US06458802B1
2-[4-(5-Methyl-1H-indol-3-yl)-3,6-dihydro-2H-pyridin-1-ylmethyl]-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinoline
(2R)-8-Methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-ylmethyl 4-methylbenzenesulfonate (0.55 g, 1.4 mmole) and 5-methyl-3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole (0.80 g, 3.8 mmole) were combined in 10 mL of DMSO. The mixture was heated at 70-80 ° C. under nitrogen for 6 hours. After cooling to room temperature, the mixture was partitioned between 400 mL each of ethyl acetate and saturated aqueous sodium bicarbonate. The organic phase was removed, washed with saturated brine, dried over magnesium sulfate, filtered and concentrated to dryness under vacuum. The residue was column chromatographed on silica gel using 0-2% methanol/chloroform as eluant. The product-containing fractions were concentrated in vacuum and the residue recrystallized from isopropanol with the addition of fumaric acid to give 0.32 g of the (S)-enantiomer of the title compound as a yellow solid monofumarate, three-quarter hydrate (m.p. 150-155° C.).

reactant | (2R)-8-Methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-ylmethyl 4-methylbenzenesulfonate | 1.4 mmole, 0.55 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC=2C(=C3C=CC(=NC3=CC2)C)O1 | C20H19NO5S
reactant | 5-methyl-3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 3.8 mmole, 0.80 g | CC=1C=C2C(=CNC2=CC1)C=1CCNCC1 | C14H16N2
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 2-[4-(5-Methyl-1H-indol-3-yl)-3,6-dihydro-2H-pyridin-1-ylmethyl]-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinoline | CC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)CC1COC=2C(=C3C=CC(=NC3=CC2)C)O1 | C27H27N3O2
